US08252431B2
10.0 g of 4′-bromoacetophenone, 12.8 g of iodine, and 80 ml of pyridine were added and the whole was heated and stirred at 100° C. for 3 hours. After cooling to room temperature, 100 ml of water was added and purification by recrystallization was performed. Drying was performed under reduced pressure at 70° C. for 12 hours to obtain 15.5 g (yield 76%) of 4-bromophenacylpyridinium iodide as a brown powder.

reactant | 4′-bromoacetophenone | 10.0 g | BrC1=CC=C(C=C1)C(C)=O | C8H7BrO
reactant | iodine | 12.8 g | II | I2
reactant | pyridine | 80 ml | N1=CC=CC=C1 | C5H5N
solvent | water | 100 ml | O | H2O
product | 4-bromophenacylpyridinium iodide | 15.5 g, yield 76% | [I-].BrC1=CC=C(C(C[N+]2=CC=CC=C2)=O)C=C1 | InChI=1S/C13H11BrNO.HI/c14-12-6-4-11(5-7-12)13(16)10-15-8-2-1-3-9-15;/h1-9H,10H2;1H/q+1;/p-1
